US06335334B1
59.) 2-(4-Chloro-phenylsulfonylamino)-4,5-dimethoxy-N-(4-(thiomorpholine-4-sulfonyl)-phenyl)-benzamide
500 mg (0.95 mmol) of 4-((2-(4-chloro-phenylsulfonylamino)-4,5-dimethoxy-benzoyl)-amino)-benzenesulfonyl fluoride were dissolved in 1 ml of thiomorpholine and heated to 90° C. for 30 min. For working up the mixture was poured onto 50 ml of ice/1 N hydrochloric acid, the precipitate was filtered off with suction, dried in a vacuum-drying chamber over phosphorus pentoxide and recrystallized from hexane/ethyl acetate. 378 mg (65%) of the title compound having a melting point of 241° C. were obtained.

reactant | 4-((2-(4-chloro-phenylsulfonylamino)-4,5-dimethoxy-benzoyl)-amino)-benzenesulfonyl fluoride | 0.95 mmol, 500 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)F)C=C(C(=C1)OC)OC | C21H18ClFN2O7S2
reactant | thiomorpholine | 1 ml | N1CCSCC1 | C4H9NS
product | 2-(4-Chloro-phenylsulfonylamino)-4,5-dimethoxy-N-(4-(thiomorpholine-4-sulfonyl)-phenyl)-benzamide | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)N2CCSCC2)C=C(C(=C1)OC)OC | C25H26ClN3O7S3
